US05004739
3-Bromo-7-methyl-phenanthrene (9)
A stirred mixture of 3-Bromo-7-methyl-phenanthrene-9-carboxylic acid (5.50 g, 17.5 mmol) and CuCO3.Cu(OH)2.H2O (1.5 g) in 50 ml of quinoline was rapidly heated to 210° C. Gas evolution was observed and the mixture became extremely dark. After 10 min the mixture was allowed to cool to room temperature and was diluted with PhCH3 --CH2Cl2 (9:1) and filtered. The filtrate was washed with 1N HCl (2×) and brine. Drying (Na2SO4) and evaporation gave 4.89 g of a brown oil which was flash chromatographed through 450 g of silica gel (10% CH2Cl2 /hexane) to yield 2.63 g (56%) of the title compound as a pale yellow solid.

reactant | 3-Bromo-7-methyl-phenanthrene-9-carboxylic acid | 17.5 mmol, 5.50 g | BrC=1C=CC=2C=C(C3=CC(=CC=C3C2C1)C)C(=O)O | C16H11BrO2
reactant | H2O | 1.5 g | O | H2O
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | PhCH3 CH2Cl2 | C1(=CC=CC=C1)C.C(Cl)Cl
catalyst | CuCO3.Cu(OH)2 | C(=O)([O-])[O-].O.O.[Cu].[Cu+2]
product | 3-Bromo-7-methyl-phenanthrene | 4.89 g | BrC=1C=CC=2C=CC3=CC(=CC=C3C2C1)C | C15H11Br
